US06930120B2
2-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-butyric acid
The title compound was prepared from 2-(4-hydroxybenzyl)-2-phenoxybutyric acid ethyl ester and toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethyl ester using the method of Example 46. 1H NMR (400 MHz, CDCl3) δ 8.01 (bs, 1H), 7.31-7.26 (m, 2H), 7.06-6.96 (m, 5H), 6.72 (d, 2H, J=8.8 Hz), 4.08 (t, 2H, J=6.4 Hz), 3.28 (s, 2H), 2.91 (t, 2H, J=6.4 Hz), 2.81 (tt, 1H, J=11.6, 3.6 Hz), 2.26 (s, 3H), 2.18-1.98 (m, 4H), 1.82-1.77 (m, 2H), 1.72-1.67 (m, 1H), 1.58-1.48 (m, 2H), 1.39-1.18 (m, 3H), 0.92 (t, 3H, J=7.6 Hz).

reactant | 2-(4-hydroxybenzyl)-2-phenoxybutyric acid ethyl ester | C(C)OC(C(CC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethyl ester | C1(CCCCC1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H25NO4S
product | 2-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-butyric acid | C1(CCCCC1)C=1OC(=C(N1)CCOC1=CC=C(CC(C(=O)O)(CC)OC2=CC=CC=C2)C=C1)C | C29H35NO5
